US03959309
3-(Dimethylamino)-6,7-dimethoxy-1,2,3,4-tetrahydrocarbazole
The 3-benzoyloxy-6,7-dimethoxy-1,2,3,4-tetrahydrocarbazole, m.p. 123°-125°C., was prepared from 102 g. of 3,4-dimethoxyphenylhydrazine and 109 g. of 4-benzoyloxycyclohexanone by following a procedure similar to that described in Example 3.

reactant | 3-benzoyloxy-6,7-dimethoxy-1,2,3,4-tetrahydrocarbazole | C(C1=CC=CC=C1)(=O)OC1CCC=2NC3=CC(=C(C=C3C2C1)OC)OC | C21H21NO4
reactant | 3,4-dimethoxyphenylhydrazine | COC=1C=C(C=CC1OC)NN | C8H12N2O2
reactant | 4-benzoyloxycyclohexanone | C(C1=CC=CC=C1)(=O)OC1CCC(CC1)=O | C13H14O3
product | 3-(Dimethylamino)-6,7-dimethoxy-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=CC(=C(C=C3C2C1)OC)OC)C | C16H22N2O2
